US07446102B2
Benzyl[(5S)-5-[(tert-butoxycarbonyl)amino]-7-({2-[(tert-butoxycarbonyl)amino]ethyl}amino)-7-oxoheptyl]carbamate
Under argon, 1 g (2.54 mmol) of (3S)-7-{[(benzyloxy)carbonyl]amino}-3-[(tert-butoxycarbonyl)amino]heptanoic acid, 406 mg (2.54 mmol) of tert-butyl (2-aminoethyl)carbamate and 0.96 ml of triethylamine (6.85 mmol) are dissolved in 20 ml of dimethylformamide. Then, at 0° C. (ice bath), 826 mg (4.3 mmol) of EDC and 113 mg (0.84 mmol) of HOBt are added. The mixture is slowly warmed to RT and stirred at RT for 12 h. The solution is concentrated in vacuo and the residue is taken up with ethyl acetate. The organic phase is washed successively with saturated sodium bicarbonate and sodium chloride solutions, dried over magnesium sulfate and evaporated in vacuo. The remaining solid is dried under high vacuum.

reactant | (3S)-7-{[(benzyloxy)carbonyl]amino}-3-[(tert-butoxycarbonyl)amino]heptanoic acid | 2.54 mmol, 1 g | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](CC(=O)O)NC(=O)OC(C)(C)C | C20H30N2O6
reactant | tert-butyl (2-aminoethyl)carbamate | 2.54 mmol, 406 mg | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | triethylamine | 6.85 mmol, 0.96 ml | C(C)N(CC)CC | C6H15N
reactant | EDC | 4.3 mmol, 826 mg
reactant | HOBt | 0.84 mmol, 113 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Benzyl[(5S)-5-[(tert-butoxycarbonyl)amino]-7-({2-[(tert-butoxycarbonyl)amino]ethyl}amino)-7-oxoheptyl]carbamate | C(C1=CC=CC=C1)OC(NCCCC[C@@H](CC(=O)NCCNC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=O | C27H44N4O7
